Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
Abnormal labs
 
Major Surgical or Invasive Procedure:
Renal biopsy (___)

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: ___ with HTN, ESRD ___ FSGS s/p LURT
___ who presents from clinic for elevated creatinine. 

Patient feels at baseline. He reports ___ lbs of weight loss
since his transplant iso decreased PO appetite. Denies fevers,
chills, N/V, abdominal pain, dysuria, fatigue. 

He presented to clinic ___ for routine follow-up and was found
to have Cr elevated to 2.5. He was called to come into the ED. 

Of note, pt was discharged ___ after receiving a LURT on
___. Discharge Cr was 1.6. Since discharge Cr had been
gradually rising (2.2 on ___. In clinic it was discovered that
pt had been taking 500 mg BID of MMF rather than 1000 mg BID. 

In the ED, initial VS were: 98.96 92 153/90 16 100% RA   

Exam notable for: 
Appears very well. Heart RRR. CTAB. Abdomen soft/nontender.
Surgical scars appear well-healing

Labs showed  
1) U/A: negative protein, neg leuk/bld
2) Coags: INR 1.0, PTT 25.3
3) CBC: WBC 3.8, Hb 11.6, plt 256, 
4) Urine: prot/cr 0.1
5) LFTs: ALT 14, AST 14, AP 81, Tbili 0.2, Alb 4.4
6) BMP: Na 138, K 4.8, Cl 102, HCO3 24, BUN 35, Cr 2.5
7) Tacro: 12.2

Imaging showed:
1) Renal ultrasound: Normal renal transplant ultrasound

Received:
___ 17:24 IVF  NS  
___ 18:56 IVF  NS 1 mL 
___ 18:57 IVF  NS  
___ 20:12 IVF  NS ( 1000 mL ordered) 
___ 20:12 IVF  NS 1 mL   
___ 21:12 PO Mycophenolate Mofetil 1000 mg 
___ 21:12 PO/NG Metoprolol Tartrate 12.5 mg 
___ 21:12 PO/NG Sulfameth/Trimethoprim SS 1 TAB 
___ 21:12 PO ValACYclovir 500 mg 
___ 21:12 PO Tacrolimus 4 mg 
___ 00:38 IVF  NS  

Transplant nephrology was consulted

Transfer VS were: 98.1 73 143/87 17 100% RA 

On arrival to the floor, patient reports that he has no
discomfort.  

 
Past Medical History:
chronic kidney disease stage V secondary to FSGS
gout, hypertension, hyperparathyroidism.

left knee surgery.

 
Social History:
___
Family History:
Mother- vision changes
Father- healthy
Sister- MS
___- MS
 
Physical Exam:
Admission:
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1 + S2, no mrg
LUNGS: CTAB, no wheezes/crackles 
ABDOMEN: SNTND, diagonal scar LLQ, no rebound/guarding  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

Discharge:
GENERAL: NAD. Sitting comfortably in a chair.  
HEENT: AT/NC, sclera anicteric, MMM
NECK: supple 
HEART: RRR with normal S1 + S2. II/VI SEM best heard at RUSB. No
rubs or gallops. 
LUNGS: Normal respiratory effort. CTAB without wheezes, rales or
rhonchi. 
ABDOMEN: Soft, non-tender, non-distended. Normoactive BS.  
EXTREMITIES: No ___ edema or erythema. 
NEURO: A&Ox3. Moves all extremities.  
SKIN: Warm. No rashes. 
MOOD: Normal mood and affect. 
 
Pertinent Results:
Admission:

___ 08:10AM   GLUCOSE-111* UREA N-26* CREAT-2.2* SODIUM-144 
POTASSIUM-5.4* CHLORIDE-113* TOTAL CO2-19* ANION GAP-12
___ 08:10AM   CALCIUM-9.2 PHOSPHATE-2.1* MAGNESIUM-1.5*
___ 08:10AM   tacroFK-10.0
___ 08:10AM   WBC-3.7* RBC-3.01* HGB-10.1* HCT-30.3* 
MCV-101* MCH-33.6* MCHC-33.3 RDW-15.9* RDWSD-57.1*
___ 08:10AM   PLT COUNT-214
___ 08:10AM   ___ PTT-26.9 ___
___ 05:24PM   GLUCOSE-107* UREA N-37* CREAT-2.6* SODIUM-141 
POTASSIUM-4.8 CHLORIDE-105 TOTAL CO2-22 ANION GAP-14
___ 05:24PM URINE  HOURS-RANDOM
___ 05:24PM URINE  UHOLD-HOLD
___ 05:24PM   WBC-4.8 RBC-3.34* HGB-11.0* HCT-33.7* 
MCV-101* MCH-32.9* MCHC-32.6 RDW-15.9* RDWSD-58.2*
___ 05:24PM   NEUTS-77.8* LYMPHS-4.0* MONOS-16.4* EOS-0.6* 
BASOS-0.8 IM ___ AbsNeut-3.74 AbsLymp-0.19* AbsMono-0.79 
AbsEos-0.03* AbsBaso-0.04
___ 05:24PM   PLT COUNT-233
___ 05:24PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:24PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 08:07AM   GLUCOSE-119*
___ 08:07AM   UREA N-35* CREAT-2.5* SODIUM-138 
POTASSIUM-4.8 CHLORIDE-102 TOTAL CO2-24 ANION GAP-12
___ 08:07AM   ALT(SGPT)-14 AST(SGOT)-14 ALK PHOS-81 TOT 
BILI-0.2
___ 08:07AM   ALT(SGPT)-14 AST(SGOT)-14 ALK PHOS-81 TOT 
BILI-0.2
___ 08:07AM   ALBUMIN-4.4 CALCIUM-9.9 PHOSPHATE-2.2* 
MAGNESIUM-1.7
___ 08:07AM   tacroFK-12.2
___ 08:07AM URINE  HOURS-RANDOM CREAT-47 TOT PROT-7 
PROT/CREA-0.1
___ 08:07AM   WBC-3.8* RBC-3.50* HGB-11.6* HCT-34.6* 
MCV-99* MCH-33.1* MCHC-33.5 RDW-15.4 RDWSD-54.4*
___ 08:07AM   PLT COUNT-256
___ 08:07AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:07AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 05:38AM   ___ PTT-25.3 ___

___ 04:40AM BLOOD WBC-8.9 RBC-2.94* Hgb-9.9* Hct-29.5* 
MCV-100* MCH-33.7* MCHC-33.6 RDW-16.4* RDWSD-59.8* Plt ___
___ 05:24PM BLOOD Neuts-77.8* Lymphs-4.0* Monos-16.4* 
Eos-0.6* Baso-0.8 Im ___ AbsNeut-3.74 AbsLymp-0.19* 
AbsMono-0.79 AbsEos-0.03* AbsBaso-0.04
___ 04:40AM BLOOD Plt ___
___ 06:38AM BLOOD ___ PTT-23.1* ___
___ 04:40AM BLOOD Plt ___
___ 06:38AM BLOOD Plt ___
___ 04:40AM BLOOD Glucose-144* UreaN-34* Creat-2.0* Na-141 
K-4.8 Cl-107 HCO3-21* AnGap-13
___ 04:40AM BLOOD Calcium-9.2 Phos-2.0* Mg-1.8
___ 04:40AM BLOOD tacroFK-10.0
___ 06:38AM BLOOD tacroFK-7.0
___ 06:50AM BLOOD tacroFK-9.7
___ 08:10AM BLOOD tacroFK-10.0
___ 08:07AM BLOOD tacroFK-12.2

Imaging:
Renal Ultrasound ___: Normal renal transplant ultrasound.

Kidney biopsy ___: final read not done, but per report 
concern for mild acute rejection

Micro:
UCx ___: negative
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with a history of ESRD 
stage V secondary to FSGS now s/p living unrelated kidney 
transplant (___) who was admitted to the transplant unit 
from clinic for evaluation of elevated creatinine in the setting 
of subtherapeutic MMF dosing, found to have acute mild cellular 
rejection s/p IV steroids.

#Acute Kidney Injury: 
Patient has a history of CKD ___ FSGS s/p living unrelated 
kidney transplant (___) presented from clinic with Cr of 
2.5, up from baseline of 2.0. He had been taking mycophenolate 
mofetil 500 mg BID instead of 1000 mg BID, prompting concern for 
rejection. Urinalysis and urine culture both negative. He was 
given IV fluids with improvement of Cr. Additionally, a renal 
biopsy showed mild acute cellular rejection, so he completed 
three days of high dose IV methylprednisolone, and will be 
discharged on an oral steroid taper. The patient had hematuria 
following the biopsy that resolved without further 
interventions. 
- Steroid taper (start date ___: prednisone 60mg x 3days, 
40mg x 3days, 20mg x 5days, 15mg x 5 days, 10mg x 5 days, 5mg 
indefinitely 

#ESRD S/p Living Unrelated Renal Transplant: LURT done on 
___. He presented on mycophenolate mofetil 500 mg BID 
instead of 1000 mg BID. Upon arrival MMF was increased to 1000 
mg BID and tacrolimus was increased to 6mg BID after tacrolimus 
level returned low. He will be discharged on the prednisone 
taper as above for rejection. 

PERTINENT RESULTS:
==================
Discharge Cr: 2.0
Discharge Tacrolimus level: pending

TRANSITONAL ISSUES:
===================
[ ] Continue (increased dose) tacrolimus 6 mg BID and 
mycophenolate mofetil 1000 mg BID. Will follow up in transplant 
clinic this week to discuss further dosing
[ ] Steroid taper (start date ___: prednisone 60mg x 3days, 
40mg x 3days, 20mg x 5days, 15mg x 5 days, 10mg x 5 days, 5mg 
indefinitely 
[ ] Repeat BMP in 1 week at follow-up appointment with tacro 
level
[ ] Needs labs ___, then every ___ until 
Renal Transplant stops them

Contact: ___ (wife) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Famotidine 20 mg PO BID 
3. ValACYclovir 500 mg PO Q12H Cmv prophylaxis 
4. Metoprolol Tartrate 12.5 mg PO BID 
5. Mycophenolate Mofetil 1000 mg PO BID 
6. Nystatin Oral Suspension 5 mL PO QID:PRN thrush 
7. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
8. Tacrolimus 4 mg PO Q12H 

 
Discharge Medications:
1.  PredniSONE 20 mg PO DAILY 
RX *prednisone 20 mg 3 tablet(s) by mouth daily Disp #*17 Tablet 
Refills:*0 
2.  PredniSONE 5 mg PO DAILY 
RX *prednisone 5 mg 3 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Tacrolimus 6 mg PO Q12H  
4.  Allopurinol ___ mg PO DAILY  
5.  Famotidine 20 mg PO BID  
6.  Metoprolol Tartrate 12.5 mg PO BID  
7.  Mycophenolate Mofetil 1000 mg PO BID  
8.  Nystatin Oral Suspension 5 mL PO QID:PRN thrush  
9.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
10.  ValACYclovir 500 mg PO Q12H Cmv prophylaxis  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Primary: Acute mild cellular rejection, acute kidney injury

#Secondary
s/p renal transplant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Why you were admitted to the hsopital:
- You were admitted because a lab test (creatinine) showed your 
kidney function had worsened
- This was concerning for transplant rejection

What we did while you were here: 
- We gave you intravenous fluids to help improve your kidney 
function
- We also took a biopsy of your kidney transplant, which showed 
mild acute rejection
- We increased mycophenolate mofetil from 500 mg to 1000 mg 
twice daily
- We increased your tacrolimus to 6 mg twice daily
- We gave you three days of IV steroids for the rejection and 
sent you home on oral steroids

What you need to do once you return home:
- Continue taking tacrolimus 6 mg twice daily
- Continue taking mycophenolate mofetil 1000 mg twice daily
- Continue Nystatin until your follow-up in transplant clinic. 
Continue Bactrim and valacyclovir. 
- Take the prednisone 60 mg for 3 days, 40 mg for 3 days, 20 mg 
for 5 days, 15 mg for 5 days, 10 mg for 5 days, then 5 mg daily 
after that

It was a pleasure taking care of you.

Sincerely,
___ Care Team
 
Followup Instructions:
___